US04105776
By substituting phenylchloroformate for the ethyl chloroformate and 4-mercaptobutanoyl-L-proline for the 3-mercaptopropanoyl-L-proline in the procedure of Example 58, 1-[3-[[(phenoxy)carbonyl]thio]butanoyl]-L-proline is obtained.

reactant | phenylchloroformate | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 4-mercaptobutanoyl-L-proline | SCCCC(=O)N1[C@H](C(=O)O)CCC1 | C9H15NO3S
reactant | 3-mercaptopropanoyl-L-proline | SCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3S
product | 1-[3-[[(phenoxy)carbonyl]thio]butanoyl]-L-proline | O(C1=CC=CC=C1)C(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C | C16H19NO5S
